US05698560
According to a similar manner as that in Reference Example 36 except that 2-cyanophenol, 1-bromo-3-chloropropane, and diethylamine were used, 2-[3-(diethylamino)propoxy]benzonitrile (95%) was obtained as a crude product.

reactant | 2-cyanophenol | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | diethylamine | C(C)NCC | C4H11N
product | 2-[3-(diethylamino)propoxy]benzonitrile | 95% | C(C)N(CCCOC1=C(C#N)C=CC=C1)CC | C14H20N2O
